US06579883B1
A solution of 1.53 g (5.75 mmol) of 8-bromo-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (WO 99/41240) in 120 ml of THF is mixed at room temperature with 1.88 g (8.63 mmol) of pyrocarbonic acid-di-tert-butylester and 1.05 g (8.63 mmol) of 4-(dimethylamino)pyridine. After 5 days at room temperature, the reaction mixture is concentrated by evaporation, and the residue is purified by column chromatography on silica gel with hexane-ethyl acetate. In this case, 1.83 g of 5-tert-butoxy-carbonyl-8-bromo-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one is isolated: MS (El) m/e=365/367 (M+)

reactant | 8-bromo-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 5.75 mmol, 1.53 g | BrC1=CC=2C3C(C(NC2C=C1)=O)CCC3 | C12H12BrNO
reactant | pyrocarbonic acid-di-tert-butylester | 8.63 mmol, 1.88 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 120 ml | C1CCOC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 8.63 mmol, 1.05 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-tert-butoxy-carbonyl-8-bromo-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.83 g | C(C)(C)(C)ON1C(C2C(C=3C=C(C=CC13)Br)C(CC2)=C=O)=O | C17H18BrNO3
